### PR TITLE
feat(FKS2): prove `lemma_10a`

### LINKED ISSUE #612: [FKS2]: Decrease of g in first parameter region
## Description

Easy consequence of previous sublemma.

## Blueprint

[Lemma 9.4.1](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/secondary-chapter.html#fks2-lemma-10a)

## Zulip

[Link](https://leanprover.zulipchat.com/#narrow/channel/423402-PrimeNumberTheorem.2B/topic/Starting.20on.20FKS2)

### PR DESCRIPTION
**Pull request by Steven-Rossi**
Closes #612 

Closes #612

### CODE REVIEW

File: PrimeNumberTheoremAnd/FKS2.lean [hunk 1]
```diff
@@ -145,8 +145,37 @@ theorem lemma_10_substep_2 {a b c x : ℝ} (hx : x > 1) :
   (latexEnv := "lemma")
   (discussion := 612)]
 theorem lemma_10a {a b c : ℝ} (ha : a > 0) (hc : c > 0) (hb : b < -c ^ 2 / (16 * a)) :
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/FKS2.lean]: @Steven-Rossi Could you please remove the unnecessary hypothesis `hc`?

Comment (Steven-Rossi) [reply PrimeNumberTheoremAnd/FKS2.lean]: Done in next commit

File: PrimeNumberTheoremAnd/FKS2.lean [hunk 2]
```diff
@@ -144,9 +144,38 @@ theorem lemma_10_substep_2 {a b c x : ℝ} (hx : x > 1) :
...
+      nlinarith [(le_of_lt ha), hs]
+    have hle : (-a * t^2 + (c / 2) * t + b) ≤ b + c^2 / (16 * a) := by
+      calc (-a * t^2 + (c / 2) * t + b)
+        _ = (-a) * (t - c / (4 * a))^2 + (b + c^2 / (16 * a)) := by exact hcomp
+        _ ≤ 0 + (b + c^2 / (16 * a)) := by linarith [hneg]
+        _ = b + c^2 / (16 * a) := by ring
+    have hb' : b + c^2 / (16 * a) < 0 := by
+      simpa [div_eq_mul_inv] using (add_neg_neg_iff.mpr hb)
+    exact lt_of_le_of_lt hle (show b + c^2 / (16 * a) < 0 by linarith [hb])
+
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/FKS2.lean]: This proof can be simplified as follows: 

```suggestion
theorem lemma_10a {a b c : ℝ} (ha : a > 0) (hb : b < -c ^ 2 / (16 * a)) :
    StrictAntiOn (g_bound a b c) (Set.Ioi 1) := by
  refine strictAntiOn_of_deriv_neg (convex_Ioi 1) (fun x hx ↦ ?_) (fun x hx ↦ ?_)
  · have : 0 < x := by linarith [hx.out]
    exact (((continuousAt_id.rpow continuousAt_const (Or.inl this.ne')).mul
      ((continuousAt_log this.ne').rpow continuousAt_const (Or.inl (log_pos hx.out).ne'))).mul
      (continuous_exp.continuousAt.comp (continuousAt_const.mul
      (continuous_sqrt.continuousAt.comp (continuousAt_log this.ne'))))).continuousWithinAt
  · rw [interior_Ioi] at hx; rw [lemma_10_substep_2 hx]
    let t := sqrt (log x)
    have : -a * t^2 + c/2 * t + b = -a * (t - c/(4*a))^2 + (b + c^2/(16*a)) := by grind
    have : b + c^2/(16*a) < 0 := by grind
    linarith [mul_nonneg (le_of_lt ha) (sq_nonneg (t - c/(4*a)))]
```
